US09227976B2
Step 4: 5-iodo-1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazin-4-ol
Phenyl[bis(2,2,2-trifluoroacetoxy)]-λ3-iodane (190 mg, 0.43 mmol) was added to a suspension of 1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazin-4-ol (166 mg, 0.73 mmol) in CH2Cl2 (3.7 mL), followed by the addition of iodine (111 mg, 0.43 mmol) and pyridine (71 μL). The reaction mixture was stirred at room temperature for 16 h, then filtered. The collected solid was washed with CH2Cl2 and dried, to yield the title compound (160 mg).

reactant | Phenyl[bis(2,2,2-trifluoroacetoxy)]-λ3-iodane | 0.43 mmol, 190 mg | C1(=CC=CC=C1)I(OC(C(F)(F)F)=O)OC(C(F)(F)F)=O | C10H5F6IO4
reactant | 1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazin-4-ol | 0.73 mmol, 166 mg | CN1N=C(C2=C1N=NC=C2O)C2=CC=CC=C2 | C12H10N4O
reactant | iodine | 0.43 mmol, 111 mg | II | I2
reactant | pyridine | 71 μL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 3.7 mL | C(Cl)Cl | CH2Cl2
product | 5-iodo-1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazin-4-ol | 160 mg | IC1=C(C2=C(N=N1)N(N=C2C2=CC=CC=C2)C)O | C12H9IN4O
